US07144906B2
2,2-Dimethyl-5-{3-[(5-methyl-2-phenyloxazol-4-yl)methyl]benzyl}-1,3-dioxane
Under argon flow, 1.45 g of 5-(3-bromobenzyl)-2,2-dimethyl-1,3-dioxane was dissolved in 7 ml of dry tetrahydrofuran, and cooled with the dry ice-acetone bath. To the mixture was added 0.9 ml of N,N,N′,N′-tetramethylethylenediamine, and then n-butyllithium (1.6 M hexane solution) was added dropwise at −60° C. or less. After 10-minute-stirring, a suspension of 1.03 g of tri-n-butylphosphine and 0.97 g of copper iodide/7 ml of dry tetrahydrofuran was added and the mixture was stirred for 10 minutes. A solution of 1.52 g of 4-iodomethyl-5-methyl-2-phenyloxazole/7 ml of dry tetrahydrofuran was added dropwise at −60° C. or less, and the mixture was stirred for 15 minutes under the same conditions. The bath was removed and the mixture was stirred for 1.5 hours. To the reaction solution was added saturated aqueous ammonium chloride solution. The mixture was diluted with water, extracted with ether, filtrated to remove insolubles, washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane: ethyl acetate=4:1) to provide 0.34 g of the objective compound as white crystals. M.p. 85-87° C.

reactant | 5-(3-bromobenzyl)-2,2-dimethyl-1,3-dioxane | 1.45 g | BrC=1C=C(CC2COC(OC2)(C)C)C=CC1 | C13H17BrO2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.9 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | tri-n-butylphosphine | 1.03 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-iodomethyl-5-methyl-2-phenyloxazole | 7 ml, 1.52 g | ICC=1N=C(OC1C)C1=CC=CC=C1 | C11H10INO
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
catalyst | copper iodide | 7 ml, 0.97 g | [Cu](I)I
product | 2,2-Dimethyl-5-{3-[(5-methyl-2-phenyloxazol-4-yl)methyl]benzyl}-1,3-dioxane | 0.34 g | CC1(OCC(CO1)CC1=CC(=CC=C1)CC=1N=C(OC1C)C1=CC=CC=C1)C | C24H27NO3
